US08802670B2
To a mixture of 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (140 mg) and (1-methanesulfonyl-piperazin-2-ylmethyl)-dimethyl-amine dihydrochloride (140 mg) in dry MeCN (6 mL) was added K2CO3 (190 mg). The mixture was stirred at 80° C. for 4 h. An aqueous work-up followed by purification on silica gave [4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1-methanesulfonyl-piperazin-2-ylmethyl]-dimethyl-amine (115 mg).

reactant | 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 140 mg | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
reactant | (1-methanesulfonyl-piperazin-2-ylmethyl)-dimethyl-amine dihydrochloride | 140 mg | Cl.Cl.CS(=O)(=O)N1C(CNCC1)CN(C)C
reactant | K2CO3 | 190 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 6 mL | CC#N | C2H3N
product | [4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1-methanesulfonyl-piperazin-2-ylmethyl]-dimethyl-amine | 115 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC(N(CC2)S(=O)(=O)C)CN(C)C)N2CCOCC2 | C19H29ClN6O3S2
